US08530667B2
A suspension of 2-(4-bromo-2-methyl-phenyl)-thiazole-5-carbaldehyde (1.9 g, 6.7 mmol) in ether at 0° C. is treated with 3.0 M MeMgBr (5 ml, 15 mmol) in diethyl ether (50 ml). The reaction mixture is stirred for 2 hours then carefully diluted with water. Acidified with aq. sat. NH4Cl. The aqueous layer is extracted with DCM (2×100 ml). The combined organic layers are dried over magnesium sulphate, filtered and evaporated to dryness to give 1.80 g of crude product. The crude product is purified by flash chromatography on silica gel to give 1-[2-(4-bromo-2-methyl-phenyl)-thiazol-5-yl]-ethanol (1.40 g).

reactant | 2-(4-bromo-2-methyl-phenyl)-thiazole-5-carbaldehyde | 6.7 mmol, 1.9 g | BrC1=CC(=C(C=C1)C=1SC(=CN1)C=O)C | C11H8BrNOS
reactant | MeMgBr | 15 mmol, 3.0 M, 5 ml | C[Mg+].[Br-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 1-[2-(4-bromo-2-methyl-phenyl)-thiazol-5-yl]-ethanol | 1.40 g | BrC1=CC(=C(C=C1)C=1SC(=CN1)C(C)O)C | C12H12BrNOS
